US04014677
20.2 g (0.2 mole) of triethylamine are added to 47.2 g (0.2 mole) of 2,4-dichloro-5-nitro-6-isopropyl-pyridine in 1 liter of ethanol and 17.5 g (0.2 mole) of 3-aminopentane are added dropwise at -20° C. The reaction mixture is stirred overnight at 20° C and then concentrated. The residue is suspended in water and extracted with ether. The ethereal extracts are drid over MgSO4 and evaporated. The product is purified by adsorption chromatography on silica gel by elution with benzene to yield 48 g of 2-chloro-4-(3-pentylamino-5-nitro-6-isopropyl-pyrimidine (nD20 : 1.5478).

reactant | triethylamine | 0.2 mole, 20.2 g | C(C)N(CC)CC | C6H15N
reactant | 2,4-dichloro-5-nitro-6-isopropyl-pyridine | 0.2 mole, 47.2 g | ClC1=NC(=C(C(=C1)Cl)[N+](=O)[O-])C(C)C | C8H8Cl2N2O2
reactant | 3-aminopentane | 0.2 mole, 17.5 g | NC(CC)CC | C5H13N
reactant | ethanol | 1 liter | C(C)O | C2H6O
product | 3-pentylamino-5-nitro-6-isopropyl-pyrimidine | C(CCCC)NN1CN=C(C(=C1)[N+](=O)[O-])C(C)C | C12H22N4O2
